US08648068B2
88.3 4-{4-Fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide
Prepared analogously to example 10.4 from 4-{4-fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and N,N-dimethyl-1,3-propanediamine.

reactant | 4-{4-fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2COCCC2 | C19H18FN3O4S
reactant | N,N-dimethyl-1,3-propanediamine | CN(CCCN)C | C5H14N2
product | 4-{4-Fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@H]2COCCC2)S1)C)C | C24H30FN5O3S
